US07192968B2
(1S,2R,4S)-N1-[(7-Chloroisoquinolin-3-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(1S,2R,4S)-N2-(tert-Butoxycarbonyl)-N1-[(7-chloroisoquinolin-3-yl)carbonyl]-4-(N,N-dimethyl-carbamoyl)-1,2-cyclohexanediamine was treated with a saturated ethanol solution of hydrochloric acid and then condensed with lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate in a similar manner to Example 118 to obtain the title compound.

reactant | (1S,2R,4S)-N2-(tert-Butoxycarbonyl)-N1-[(7-chloroisoquinolin-3-yl)carbonyl]-4-(N,N-dimethyl-carbamoyl)-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC[C@@H](C1)C(N(C)C)=O)NC(=O)C=1N=CC2=CC(=CC=C2C1)Cl | C24H31ClN4O4
reactant | hydrochloric acid | Cl | ClH
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
solvent | ethanol | C(C)O | C2H6O
product | (1S,2R,4S)-N1-[(7-Chloroisoquinolin-3-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | Cl.ClC1=CC=C2C=C(N=CC2=C1)C(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(N(C)C)=O)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C27H31ClN6O3S.ClH/c1-33(2)27(37)16-5-7-19(30-24(35)22-11-15-4-6-18(28)10-17(15)13-29-22)21(12-16)31-25(36)26-32-20-8-9-34(3)14-23(20)38-26;/h4,6,10-11,13,16,19,21H,5,7-9,12,14H2,1-3H3,(H,30,35)(H,31,36);1H/t16-,19-,21+;/m0./s1
